US06265426B1
A mixture of 2-(3,4-dichloro-phenyl)-4,5-diiodo-lH-imidazole (0.93 g, 2.0 mmol) and sodium sulfite (1.01 g, 8.0 mmol) in ethanol (33 ml) and water (8 ml) was refluxed for 24 h. After addition of EtOAc (200 ml) and brine (20 ml) the organic layer was separated, then dried with Na2SO4, evaporated and chromatographed over SiO2 with EtOAc-hexane (6:1) to obtain 2-(3,4-dichloro-phenyl)-4-iodo-1H-imidazole (0.57 g, 84%) as a solid mass. Mp. 206-207° C. (EtOAc/hexane), MS: m/e=338 (M+).

reactant | 2-(3,4-dichloro-phenyl)-4,5-diiodo-lH-imidazole | 2.0 mmol, 0.93 g | ClC=1C=C(C=CC1Cl)C=1NC(=C(N1)I)I | C9H4Cl2I2N2
reactant | sodium sulfite | 8.0 mmol, 1.01 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
solvent | ethanol | 33 ml | C(C)O | C2H6O
solvent | water | 8 ml | O | H2O
solvent | brine | 20 ml | [Cl-].[Na+].O
product | 2-(3,4-dichloro-phenyl)-4-iodo-1H-imidazole | 0.57 g, 84% | ClC=1C=C(C=CC1Cl)C=1NC=C(N1)I | C9H5Cl2IN2
